US07071201B2
Example 142: Synthesis of 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6chloromethylindoline
Conc. hydrochloric acid (280 ml) was added to 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-hydroxymethylindoline (about 70 g) and the resultant mixture was stirred at 80° C. for a day. Under ice cooling, the reaction solution was neutralized with a conc. aqueous solution of sodium hydroxide followed by addition of ethyl acetate (200 ml). The resulting crystals were collected by filtration and dissolved in ethyl acetate (500 ml) and a 5 N aqueous solution (500 ml) of sodium hydroxide and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (70 g) as a pale yellow powder (yield: 94%).

reactant | hydrochloric acid | 280 ml | Cl | ClH
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-hydroxymethylindoline | about 70 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CO)C=C1 | C22H27FN2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6chloromethylindoline | 70 g, yield: 94% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CCl)C=C1 | C22H26ClFN2
